US07601716B2
1-(2-Chloro-3,6-difluorobenzyl)-7-[2-(4-methylpiperazin-1-yl)-pyrimidin-5-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (100 mg) was reacted with 2-(4-methylpiperazin-1-yl)pyrimidine-5-boronic acid pinacol ester as in General Procedure 4A to give the title compound as a pale orange solid (27% yield). M.p. 194-195° C., LCMS: m/z=472.09 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.38 (s, 3H), 2.51-2.58 (m, 4H), 3.31 (t, J=4.8 Hz, 2H), 3.49-3.58 (m, 2H), 3.89-3.97 (m, 4H), 4.51 (s, 2H), 4.95 (bs, 1H), 6.96 (s, 1H), 6.99-7.08 (m, 1H), 7.10-7.18 (m, 1H), 7.57 (s, 1H), 8.45 (s, 1H).

reactant | 1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 100 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C(=CC=C1F)F | C14H11ClF2IN3
reactant | 2-(4-methylpiperazin-1-yl)pyrimidine-5-boronic acid pinacol ester | CN1CCN(CC1)C1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C15H25BN4O2
product | 1-(2-Chloro-3,6-difluorobenzyl)-7-[2-(4-methylpiperazin-1-yl)-pyrimidin-5-yl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 27% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NC(=NC3)N3CCN(CC3)C)C(=CC=C1F)F | C23H24ClF2N7
